US05124324
1-Benzyl-2-(tert-butyldimethylsilyloxymethyl)piperidine
To a DMF (4 ml) solution of 60% sodium hydride (0.21 g, 5.2 mmol) was dropwise added a DMF (4 ml) solution of 2-(tert-butyldimethylsilyloxymethyl)piperidine (1.00 g, 4.4 mmol) at room temperature. The mixture was stirred at room temperature for 30 min., to which was then dropwise added a THF (1 ml) solution of benzyl bromide (0.75 g, 4.4 mmol). After stirring at room temperature for additional 30 min., a reaction solution was poured onto water followed by extraction with diethyl ether (30 ml). The extract was washed successively with water and saturated aqueous sodium chloride and then dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give 1.30 g of the title compound.

reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
reactant | sodium hydride | 5.2 mmol, 0.21 g | [H-].[Na+]
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
reactant | 2-(tert-butyldimethylsilyloxymethyl)piperidine | 4.4 mmol, 1.00 g | [Si](C)(C)(C(C)(C)C)OCC1NCCCC1 | C12H27NOSi
reactant | benzyl bromide | 4.4 mmol, 0.75 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 1-Benzyl-2-(tert-butyldimethylsilyloxymethyl)piperidine | 1.30 g | C(C1=CC=CC=C1)N1C(CCCC1)CO[Si](C)(C)C(C)(C)C | C19H33NOSi
